2172-08-12 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2172-8-11**] 12:24 PM
 BLOOD CULTURED - At [**2172-8-12**] 01:50 AM - cultured blood [**3-9**] being
   called to pt's bedside because he was diaphoretic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2172-8-11**] 08:03 PM
   Ambisome - [**2172-8-11**] 10:10 PM
   Metronidazole - [**2172-8-12**] 01:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-8-11**] 03:47 PM
   Lorazepam (Ativan) - [**2172-8-11**] 09:04 PM
   Hydromorphone (Dilaudid) - [**2172-8-12**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-12**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 80 (71 - 86) bpm
   BP: 160/85(104) {127/59(77) - 160/95(107)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 79.3 kg
    ICP: 11 (10 - 11) mmHg
   Total In:
                                                                  2,425 mL
                                                                    888 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                    731 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  2,432 mL
                                                                  1,297 mL
   Urine:
                                                                  2,300 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
                                                                    132 mL
                                                                     62 mL
   Balance:
                                                                     -7 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   10.4 g/dL
   141 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   35 mg/dL
   107 mEq/L
   136 mEq/L
   30.6 %
   17.6 K/uL
        [image002.jpg]
                             [**2172-8-11**]  06:22 PM
                             [**2172-8-12**]  03:12 AM
   WBC
   17.6
   Hct
   30.6
   Plt
   213
   Cr
   1.3
   1.1
   Glucose
   116
   141
   Other labs: PT / PTT / INR:15.6/28.3/1.4, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   56 y/o with HIC here with recurrant cryptococcal meningitis and
   increasing lumbar pressures, now s/p a second lumbar drain placement.
   .
   # Cryptococcal Meningitis
  was treated for first episode [**9-13**] with
   ambisome and flucytosine, then maintained on Fluconazole. Now with
   recurrent infection. Cryptococcal antigen titer is >1:64. He has been
   on ambisone and attempted to start flucytosine but not tolerating
   orally. He has had high opening pressures on LP up to 41. Now s/p
   Lumbar drain. Pt refuses MRI.
   - goal drain pressure <25mmHg
   - Lumbar drain on continuous drainage for now
   - daily CSF to be sent for WBC, glucose, protein
   - continue ambisome and attempt to give flucytosine
   - ID is following, appreciate recommendations
   - repeat cryptococcal antigen titer is pending
   - neurosurgery recs, pt may need VP shunt if drain dose not work
   - continue to discuss MRI brain with pt to r/o further infection
   - may need ophtho consult if pressures remain elevated per neuro recs
   .
   # HIV: CD4 175, viral load undectable. meds were changed initially for
   renal dosing, now off of HAART secondary to nausea and vomiting from
   increased ICP.
   - Will restart HAART meds once able to tolerated orals, or will try NGT
   if vomitting reoccurs
   - ID recs appreciated
   - Bactrim ppx
   .
   # Hypokalemia: K has been low for last several days, likely secondary
   to frequent diarrhea and vomitting
   - [**Hospital1 **] lytes
   - replete potassium aggressively
   .
   # Diarrhea: having continuous diarrhea, unclear cause. C. Diff x 1
   negative
   - recheck c. diff
   - continue flagyl treatment
   .
   # N/V: likely from increased ICP. Also possible other infection souce
   due to immunocompromised state, or may been side effect of medication.
   However elevated ICP more likely due to projectile nature of emesis.
   - clears and ADAT
   - drain to reduce ICP
   .
   # Delerium: Likely secondary to menigitis and increased ICP. Has
   improved after drain was placed today.
   - continue monitoring MS
   - treatment of meningitis, see above
   - drain to reduce ICP
   .
   # Thrush: seen on exam
   - nystatin swish and swallow
   - trochs Q6H
   .
   # ARF: Had initially developed ARF, now Cr is down trending from peak
   of 1.9. FeNa was 0.9. Also, may have been partially from truvada, but
   is currently not tolerating this oral med.
   - renally dose truvada when restarted
   - monior renal function
   .
   # Asthma: chronic, no acute sx
   - PRN arovent and albuterol
   .
   # FEN: Clears and TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-8-11**] 11:56 PM 86 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-8-11**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU; pending discussion with neurosurg

2172-08-13 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2172-8-12**] 10:45 AM
   20 minute test
   [**2172-8-12**]
   - 20 min EEG ordered
   - neuro noted that pt has received 28 mg IV dilaudid in past 24 hrs
   - talked to ID: they want the prophylactic vanc b/c pt has had coag neg
   staph in CNS
   - wound consult for skin breakdown on bottom
   - will try to convert dilaudid to fent patch
   - ID: rec starting acyclovir
   - pt scheduled for MRI C/T/L spine. Will need intubation prior.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2172-8-11**] 10:10 PM
   Vancomycin - [**2172-8-12**] 08:00 PM
   Metronidazole - [**2172-8-12**] 11:56 PM
   Infusions:
   Other ICU medications:
   Acetaminophen
   Acyclovir
   Albuterol Inhaler
   Ambisome
   Clotrimazole
   Darunavir
   DiphenhydrAMINE
   Emtricitabine-Enfuvirtide
   Fentanyl Patch
   Flucytosine
   HYDROmorphone (Dilaudid)
   Heparin
   Ipratropium Bromide MDI
   Lidocaine Jelly 2% (Urojet)
   Lorazepam
   MetRONIDAZOLE
   Nystatin Oral Suspension
   Ondansetron
   Pantoprazole
   Polyethylene Glycol
   Prochlorperazine
   Propofol
   Raltegravir RiTONAvir
   Sulfameth/Trimethoprim SS
   Vancomycin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-13**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 78 (67 - 100) bpm
   BP: 121/78(89) {116/54(75) - 161/97(105)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 79.3 kg
             Total In:
                                                                  4,095 mL
                                                                    606 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,491 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  4,600 mL
                                                                    961 mL
   Urine:
                                                                  4,380 mL
                                                                    920 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
                                                                    160 mL
                                                                     41 mL
   Balance:
                                                                   -505 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General
 drowsy but arousable, oriented X 3
   CV
 RRR; no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation bilaterally
   Abdomen
 soft, diffusely TTP, bowel sounds present, no guarding
   Ext
 R and DP pulses present, no edema noted
   Neuro- Follows commands, MAE. CNII-XII intact.
   Labs / Radiology
   224 K/uL
   11.1 g/dL
   104 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.3 mEq/L
   39 mg/dL
   107 mEq/L
   138 mEq/L
   33.1 %
   18.4 K/uL
        [image002.jpg]
                             [**2172-8-11**]  06:22 PM
                             [**2172-8-12**]  03:12 AM
                             [**2172-8-13**]  02:00 AM
   WBC
   17.6
   18.4
   Hct
   30.6
   33.1
   Plt
   213
   224
   Cr
   1.3
   1.1
   1.2
   Glucose
   116
   141
   104
   Other labs: PT / PTT / INR:15.8/27.2/1.4, Differential-Neuts:82.5 %,
   Lymph:10.8 %, Mono:4.9 %, Eos:1.5 %, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 HEADACHE
 MENINGITIS, OTHER
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 NAUSEA / VOMITING
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION
 CANDIDIASIS, ORAL
   56 y/o with HIV here with recurrant cryptococcal meningitis and
   increasing lumbar pressures, now s/p a second lumbar drain placement.
   .
   # Cryptococcal Meningitis
  recurrent infx
 has been on ambisone and
   attempted to start flucytosine but not tolerating orally.
   - s/p lumbar drain; management per neurosurgery
   - goal drain pressure <25mmHg
   - Lumbar drain on continuous drainage for now
   - daily CSF to be sent for WBC, glucose, protein
   - continue ambisome and attempt to give flucytosine
   - ID is following, appreciate recommendations.  Will continue vanc for
   coag neg staph in CNS per ID rec.
   - repeat cryptococcal antigen titer is pending
   - neurosurgery recs, pt may need VP shunt if drain dose not work
   - MRI brain w/wo and MRI TLS spine for today with elective intubation.
   - continue ambisome, vanco, and flucytosine
   #Leukocytosis
   -pt
s WBC is rising
   - Pt remains afebrile at present, unclear of Pts ability to mount
   fever.
   - MRI today which may help identify CNS source.
   - will follow
   .
   # HIV
 CD4 175, viral load undectable
   - Restarted HAART meds once able to tolerated orals
   - ID recs appreciated
   - Bactrim ppx
   - Difficulty tol medication [**3-9**] N/V.  While Pt intubated will place
   post pyloric tube for HAART and nutrition
   .
   #HSV: HSV lesions on buttock
   - Started on acyclovir
   - Wnd care to leave recs, will f/u.
   # Hypokalemia: K has been low for last several days, however today
   K=4.3, likely secondary to frequent diarrhea and vomitting
   - [**Hospital1 **] lytes
   - replete potassium aggressively
 K is 4.3 this am.  Will follow
   .
   # Diarrhea: having continuous diarrhea, unclear cause. C. Diff x 1
   negative
   - recheck c. diff
   - continue flagyl treatment
   .
   # N/V: Initially thought to be related to increased ICP, however Pt
   continues to have nausea despite normal pressures as transduced from
   lumbar drain.  Prior CT without evidence of NPH.  [**Month (only) 8**] be relatd to CNS
   irritation.
   - clears, advance as tolerated
   .
   # Delerium: Likely secondary to menigitis
   - continue monitoring MS
   - pt has increased somnolence with PO dilaudid
 with transition to
   fentanyl patch
   - drain to reduce ICP
   .
   # Thrush: seen on exam
   - nystatin swish and swallow
   .
   # ARF: Had initially developed ARF, now Cr is down trending from peak
   of 1.9.
   - Cr now 1.2
   - renally dose meds (in particular, truvada)
   - monior renal function
   .
   # Asthma: chronic, no acute sx
   - PRN arovent and albuterol
   # Wounds on Pt
s Back
 wound care consult / ID consult
   .
   # FEN: Clears and TPN; While Pt intubated will place post pyloric tube
   for both nutrition and to get HAART.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-8-12**] 11:01 PM 86 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-8-11**] 12:24 PM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer:  Pantoprazole
   VAP:  n/a
   Comments:
   Communication: With Patient Comments:
   Code status: Full
   Disposition: MICU
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined during
   multidisciplinary rounds.  This am he was somnolent but arousable and
   oriented to place. Intubated electively this afternoon for MR that was
   aborted due to recurrent emesis
   97.6     88     93/57
   Chest few midinsp crackles
   CV w/o m
   1+ edema
   WBC 18.4
   Difficult situation. We are reviewing w/u for N&V. Plan for sedation
   and then MR. [**Name13 (STitle) **] discuss with NSurg and ID if the lumbar drain is
   actually helping.  Needs either post-pyloric tube or J-tube so he can
   get the meds he badly needs.   BP has required low dose of Neo for
   support since intubation
 will switch to midaz and fentanyl.
   Time spent  40
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2172-8-13**] 18:45 ------

2172-08-14 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2172-8-13**] 01:14 PM
 STOOL CULTURE - At [**2172-8-13**] 01:18 PM
   - Pt intubated for MRI
   - At MRI Pt had copious emesis and RN felt Pt unable to tolerate study
   and would need anesthesia present for study.  Also unable to get
   post-pyloric tube placed under fluro.
   - Plan for MR tomorrow along with post-pyloric tube placement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2172-8-11**] 10:10 PM
   Vancomycin - [**2172-8-13**] 11:14 PM
   Metronidazole - [**2172-8-14**] 12:13 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-8-13**] 07:59 AM
   Hydromorphone (Dilaudid) - [**2172-8-14**] 03:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-14**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 104 (75 - 117) bpm
   BP: 110/87(92) {83/47(56) - 178/103(109)} mmHg
   RR: 12 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.2 kg (admission): 79.3 kg
    ICP: 4 (-1 - 15) mmHg
   Total In:
                                                                  4,046 mL
                                                                    774 mL
   PO:
   TF:
   IVF:
                                                                  1,483 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  2,992 mL
                                                                    923 mL
   Urine:
                                                                  2,752 mL
                                                                    860 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    140 mL
                                                                     63 mL
   Balance:
                                                                  1,054 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   10.6 g/dL
   123 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.9 mEq/L
   53 mg/dL
   111 mEq/L
   142 mEq/L
   32.2 %
   16.6 K/uL
        [image002.jpg]
                             [**2172-8-11**]  06:22 PM
                             [**2172-8-12**]  03:12 AM
                             [**2172-8-13**]  02:00 AM
                             [**2172-8-14**]  04:04 AM
   WBC
   17.6
   18.4
   16.6
   Hct
   30.6
   33.1
   32.2
   Plt
   [**Telephone/Fax (3) 7615**]
   Cr
   1.3
   1.1
   1.2
   1.6
   Glucose
   116
   141
   104
   123
   Other labs: PT / PTT / INR:16.4/27.9/1.5, Differential-Neuts:85.2 %,
   Lymph:9.1 %, Mono:4.4 %, Eos:1.1 %, Ca++:9.3 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 HEADACHE
 MENINGITIS, OTHER
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 NAUSEA / VOMITING
 DIARRHEA
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION
 CANDIDIASIS, ORAL
   56 y/o with HIV here with recurrant cryptococcal meningitis and
   increasing lumbar pressures, now s/p a second lumbar drain placement.
   .
   # Cryptococcal Meningitis
  recurrent infx
 has been on ambisone and
   attempted to start flucytosine but not tolerating orally.
   - s/p lumbar drain; management per neurosurgery
   - goal drain pressure <25mmHg
   - Lumbar drain on continuous drainage for now
   - daily CSF to be sent for WBC, glucose, protein
   - continue ambisome and attempt to give flucytosine
   - ID is following, appreciate recommendations.  Will continue vanc for
   coag neg staph in CNS per ID rec.
   - repeat cryptococcal antigen titer is pending
   - neurosurgery recs, pt may need VP shunt if drain dose not work
   - MRI brain w/wo and MRI TLS spine for today with elective intubation.
   - continue ambisome, vanco, and flucytosine
   #Leukocytosis
   -pt
s WBC is rising
   - Pt remains afebrile at present, unclear of Pts ability to mount
   fever.
   - MRI today which may help identify CNS source.
   - will follow
   .
   # HIV
 CD4 175, viral load undectable
   - Restarted HAART meds once able to tolerated orals
   - ID recs appreciated
   - Bactrim ppx
   - Difficulty tol medication [**3-9**] N/V.  While Pt intubated will place
   post pyloric tube for HAART and nutrition
   .
   #HSV: HSV lesions on buttock
   - Started on acyclovir
   - Wnd care to leave recs, will f/u.
   # Hypokalemia: K has been low for last several days, however today
   K=4.3, likely secondary to frequent diarrhea and vomitting
   - [**Hospital1 **] lytes
   - replete potassium aggressively
 K is 4.3 this am.  Will follow
   .
   # Diarrhea: having continuous diarrhea, unclear cause. C. Diff x 1
   negative
   - recheck c. diff
   - continue flagyl treatment
   .
   # N/V: Initially thought to be related to increased ICP, however Pt
   continues to have nausea despite normal pressures as transduced from
   lumbar drain.  Prior CT without evidence of NPH.  [**Month (only) 8**] be relatd to CNS
   irritation.
   - clears, advance as tolerated
   .
   # Delerium: Likely secondary to menigitis
   - continue monitoring MS
   - pt has increased somnolence with PO dilaudid
 with transition to
   fentanyl patch
   - drain to reduce ICP
   .
   # Thrush: seen on exam
   - nystatin swish and swallow
   .
   # ARF: Had initially developed ARF, now Cr is down trending from peak
   of 1.9.
   - Cr now 1.2
   - renally dose meds (in particular, truvada)
   - monior renal function
   .
   # Asthma: chronic, no acute sx
   - PRN arovent and albuterol
   # Wounds on Pt
s Back
 wound care consult / ID consult
   .
   # FEN: Clears and TPN; While Pt intubated will place post pyloric tube
   for both nutrition and to get HAART.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-8-14**] 03:59 AM 87.[**Telephone/Fax (3) 550**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-8-11**] 12:24 PM
   20 Gauge - [**2172-8-13**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2172-08-16 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2172-8-16**] 02:56 AM
 FEVER - 101.5
F - [**2172-8-15**] 08:00 PM
   [**8-15**]
   - plan for extubation
   - likely removal of lumbar drain
   - CSF sent for cx
   - will speak with ID re: addition of gram neg coverage
   - vomited when his sedation was decreased; ? aspiration and whether we
   should extubate today anymore
   - ISS updated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-8-14**] 07:30 AM
   Vancomycin - [**2172-8-14**] 03:16 PM
   Ambisome - [**2172-8-15**] 08:25 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Acetaminophen
   Acyclovir
   Albuterol Inhaler
   Ambisome
   Clotrimazole
   Darunavir
   DiphenhydrAMINE
   Emtricitabine-Tenofovir
   Enfuvirtide
   Fentanyl Patch
   Flucytosine
   HYDROmorphone (Dilaudid)
   Heparin
   Insulin
   Ipratropium Bromide MDI
   Lorazepam
   Nystatin
   Ondansetron
   Pantoprazole
   Phenylephrine
   Polyethylene Glycol
   Prochlorperazine
   Propofol
   Raltegravir
   RiTONAvir
   Sulfameth/Trimethoprim
   Vancomycin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-16**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.8
C (98.2
   HR: 94 (93 - 128) bpm
   BP: 126/71(84) {95/55(64) - 174/95(152)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 79.3 kg
             Total In:
                                                                  5,163 mL
                                                                    401 mL
   PO:
             TF:
   IVF:
                                                                  2,612 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  4,231 mL
                                                                  1,300 mL
   Urine:
                                                                  3,000 mL
                                                                  1,200 mL
   NG:
                                                                    240 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                     66 mL
   Balance:
                                                                    932 mL
                                                                   -899 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 729 (675 - 881) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 10.2 L/min
   Physical Examination
   General
 intubated sedated, on ventilator, but opens eyes and moves
   when examined
   CV
 RRR; no murmurs, rubs, or gallops
   Resp
 clear to auscultation anteriorly
   Abdomen
 soft, non-distended, bowel sounds present
   Extrem
 no edema noted in the lower extremities
   Labs / Radiology
   214 K/uL
   10.8 g/dL
   172 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.7 mEq/L
   47 mg/dL
   110 mEq/L
   142 mEq/L
   32.2 %
   16.6 K/uL
        [image002.jpg]
                             [**2172-8-11**]  06:22 PM
                             [**2172-8-12**]  03:12 AM
                             [**2172-8-13**]  02:00 AM
                             [**2172-8-14**]  04:04 AM
                             [**2172-8-15**]  03:31 AM
                             [**2172-8-15**]  02:41 PM
                             [**2172-8-16**]  02:09 AM
   WBC
   17.6
   18.4
   16.6
   20.7
   16.6
   Hct
   30.6
   33.1
   32.2
   34.1
   32.2
   Plt
   [**Telephone/Fax (3) 7637**]43
   214
   Cr
   1.3
   1.1
   1.2
   1.6
   2.0
   1.7
   1.3
   Glucose
   116
   141
   104
   123
   141
   180
   172
   Other labs: PT / PTT / INR:14.0/24.6/1.2, ALT / AST:19/10, Alk Phos / T
   Bili:53/0.3, Differential-Neuts:85.2 %, Lymph:9.1 %, Mono:4.4 %,
   Eos:1.1 %, LDH:136 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HEADACHE
 MENINGITIS, OTHER
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION
 CANDIDIASIS, ORAL
   56 y/o with HIV here with recurrant cryptococcal meningitis and
   increasing lumbar pressures, now s/p a second lumbar drain placement.
   .
   # Cryptococcal Meningitis
  recurrent infx
 has been on ambisome and
   flucytosine.
   - s/p removal of lumbar drain
   - will continue vanc for coag neg staph in CNS per ID rec.
   - sent CSF for cytology and will send CSF for repeat crypto antigen
   - pan-cultured with fever last night
 will f/u
   - MRI showed meningeal irritation c/w cryptococcal meningitis
   # Mechanical Ventilation
   - pt was electively intubated for procedures yesterday
   - will plan to extubate today
   #Leukocytosis
   - now at 16.6 and pt was febrile last night
   - pan-cultured
 will f/u
   .
   # HIV
 CD4 175, viral load undectable
   - restarted HAART once post-pyloric tube is in place and pt tolerating
   PO
   - Bactrim ppx
   .
   #HSV: HSV lesions on buttock
   - will finish course of acyclovir
   - will follow wound care recs
   - derm felt that HSV lesions looked healed and that most of patient
   lesions were [**3-9**] to HPV
   # Hypokalemia
 no acute issues
   - now 4.7
   - continue to monitor
   .
   # Nausea/Vomiting/Diarrhea
   - pt to get post-pyloric tube for nutrition and meds
   - C. Diff x 2 negative
 stopped flagyl
   - GI consult
 recommended CT abdomen/pelvis (which was normal) and
   then EGD/flex sig when more stable
 also recommended zofran and
   compazine PRN
   # Delerium: Likely secondary to menigitis
   - continue monitoring MS
   - neuron recs: f/u EEG, limit dilaudid, f/u MRI head (just showed
   meningeal irritation), f/u CSF VDRL and flow cytometry, continue abx
   - transition to fentanyl patch to have patient on less PO dilaudid
   .
   # Thrush: seen on exam
   - nystatin swish and swallow
   .
   # ARF
   - Cr now 1.3
   - pt seems dry on exam
 will give fluids
   .
   # Asthma
 no acute issues
   - PRN arovent and albuterol
   .
   # FEN: post-pyloric tube for nutrition and HAART
 if doesn
t tolerate,
   then will give TPN
   ICU Care
   Nutrition: TPN
   Glycemic Control:  SSI / Insulin in TPN
   Lines:
   PICC Line - [**2172-8-11**] 12:24 PM
   20 Gauge - [**2172-8-15**] 08:00 PM
   Prophylaxis:
   DVT: Heparin / SCD
   Stress ulcer:  Pantoprazole
   VAP:  HOB>30, Oral Care
   Comments:
   Communication: With Patient and HCP Comments:
   [**Name2 (NI) 156**] status:  Full Code
   Disposition: MICU

2172-08-17 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2172-8-16**] 08:05 AM
 EKG - At [**2172-8-16**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2172-8-16**] 08:48 AM
   Fluconazole - [**2172-8-16**] 04:01 PM
   Ambisome - [**2172-8-16**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-8-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-8-16**] 10:00 PM
   Lorazepam (Ativan) - [**2172-8-17**] 03:17 AM
   Hydromorphone (Dilaudid) - [**2172-8-17**] 06:00 AM
   Other medications:
             IV access: Peripheral line Order date: [**8-11**] @ 1247
   19. Heparin Flush (10 units/ml) 2 mL IV PRN line flush
   Mid-line, heparin dependent: Flush with 10 mL Normal Saline followed by
   Heparin as above, daily and PRN per lumen.  Order date: [**8-11**] @ 1247
   2. IV access: Mid-line, heparin dependent median, Date inserted:
   [**2172-7-27**] Order date: [**8-11**] @ 1247
   20. IV access request: PICC Place Indication: TPN Urgency: Urgent Has a
   midline, please convert to PICC. Thank you. Order date: [**8-11**] @ 1247
   3. IV access: Peripheral line Order date: [**8-11**] @ 1247
   21. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**8-15**] @ 2230
   4. Acetaminophen 325-650 mg PO/PR Q6H:PRN fever/pain
   Please give PR if pt actively vomiting for fever  Order date: [**8-11**] @
   1247
   22. Ipratropium Bromide MDI 2 PUFF IH Q6H:PRN sob/wheezing  Order date:
   [**8-11**] @ 1247
   5. Acetaminophen 650 mg PO ASDIR
   Please give prior to ambisome infusion  Order date: [**8-11**] @ 1247
   23. Lidocaine Jelly 2% (Urojet) 1 Appl TP PRN pain  Order date: [**8-11**] @
   1247
   6. Acyclovir 400 mg PO Q8H Duration: 7 Days
   last day [**8-18**]  Order date: [**8-16**] @ 1057
   24. Lorazepam 0.5-1 mg IV Q6H:PRN nausea
   hold for signs of oversedation or RR<12  Order date: [**8-15**] @ 0919
   7. Albuterol Inhaler [**2-7**] PUFF IH Q6H:PRN sob/wheezing  Order date:
   [**8-11**] @ 1247
   25. Nystatin Oral Suspension 5 mL PO QID
   swish and spit.  Order date: [**8-12**] @ 0910
   8. Ambisome 400 mg IV Q24H  Order date: [**8-11**] @ 1247
   26. Ondansetron 8 mg IV Q8H:PRN nausea  Order date: [**8-11**] @ 1247
   9. Clotrimazole 1 TROC PO QID  Order date: [**8-11**] @ 2203
   27. Pantoprazole 40 mg IV Q24H  Order date: [**8-11**] @ 1247
   10. Darunavir 600 mg PO Q12H  Order date: [**8-12**] @ 1358
   28. Polyethylene Glycol 17 g PO DAILY:PRN constipation  Order date:
   [**8-11**] @ 1247
   11. DiphenhydrAMINE 25 mg PO/IV ASDIR
   Please given prior to ambisome infusion - IV ok if patient cannot
   tolerate PO  Order date: [**8-11**] @ 1247
   29. Prochlorperazine 5-10 mg IV Q6H:PRN nausea  Order date: [**8-11**] @
   1247
   12. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  Order date: [**8-16**]
   @ 1057
   30. Raltegravir 400 mg PO Q12H  Order date: [**8-12**] @ 1358
   13. Enfuvirtide 90 mg SUBCUT Q12H  Order date: [**8-12**] @ 1358
   31. RiTONAvir 100 mg PO Q12H  Order date: [**8-12**] @ 1358
   14. Fentanyl Patch 25 mcg/hr TP Q72H  Order date: [**8-14**] @ 1209
   32. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**8-11**] @ 1247
   15. Flucytosine [**2163**] mg PO Q8HOURS  Order date: [**8-11**] @ 1247
   33. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Mid-line, non-heparin dependent: Flush with 10 mL Normal Saline daily
   and PRN per lumen.  Order date: [**8-11**] @ 1247
   16. Fluconazole 400 mg IV Q24H  Order date: [**8-16**] @ 1320
   34. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**8-11**] @ 1247
   17. HYDROmorphone (Dilaudid) 2 mg IV Q2H:PRN pain
   hold for signs of oversedation or RR<12  Order date: [**8-12**] @ 0926
   35. Sulfameth/Trimethoprim SS 1 TAB PO DAILY  Order date: [**8-11**] @ 1247
   18. Heparin 5000 UNIT SC TID  Order date: [**8-11**] @ 1247
   36. Vancomycin 1000 mg IV Q 24H Start: 0800
   please obtain vancomycin level at 6 am (prior to first dose)  Order
   date: [**8-14**] @ 2327
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-17**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.7
C (98
   HR: 79 (67 - 114) bpm
   BP: 152/70(86) {123/59(72) - 175/82(102)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 79.3 kg
             Total In:
                                                                  3,606 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                  1,199 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  3,665 mL
                                                                    715 mL
   Urine:
                                                                  3,440 mL
                                                                    715 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    -59 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   10.3 g/dL
   166 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.4 mEq/L
   46 mg/dL
   109 mEq/L
   143 mEq/L
   30.2 %
   14.1 K/uL
        [image002.jpg]
                             [**2172-8-11**]  06:22 PM
                             [**2172-8-12**]  03:12 AM
                             [**2172-8-13**]  02:00 AM
                             [**2172-8-14**]  04:04 AM
                             [**2172-8-15**]  03:31 AM
                             [**2172-8-15**]  02:41 PM
                             [**2172-8-16**]  02:09 AM
                             [**2172-8-16**]  03:39 PM
                             [**2172-8-17**]  01:55 AM
   WBC
   17.6
   18.4
   16.6
   20.7
   16.6
   14.1
   Hct
   30.6
   33.1
   32.2
   34.1
   32.2
   30.2
   Plt
   [**Telephone/Fax (3) 7637**]43
   214
   227
   Cr
   1.3
   1.1
   1.2
   1.6
   2.0
   1.7
   1.3
   1.4
   1.3
   Glucose
   116
   141
   104
   123
   141
   180
   172
   138
   166
   Other labs: PT / PTT / INR:14.0/24.6/1.2, ALT / AST:19/10, Alk Phos / T
   Bili:53/0.3, Differential-Neuts:85.2 %, Lymph:9.1 %, Mono:4.4 %,
   Eos:1.1 %, LDH:136 IU/L, Ca++:9.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HEADACHE
 MENINGITIS, OTHER
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION
 CANDIDIASIS, ORAL
   56 y/o with HIV here with recurrant cryptococcal meningitis and
   increasing lumbar pressures, now s/p a second lumbar drain placement.
   .
   # Cryptococcal Meningitis
  recurrent infx
 has been on ambisome and
   flucytosine.
   - s/p removal of lumbar drain
   - will continue vanc for coag neg staph in CNS per ID rec.
   - sent CSF for cytology and will send CSF for repeat crypto antigen
   - pan-cultured with fever last night
 will f/u
   - MRI showed meningeal irritation c/w cryptococcal meningitis
   # Mechanical Ventilation
   - pt was electively intubated for procedures yesterday
   - will plan to extubate today
   #Leukocytosis
   - now at 16.6 and pt was febrile last night
   - pan-cultured
 will f/u
   .
   # HIV
 CD4 175, viral load undectable
   - restarted HAART once post-pyloric tube is in place and pt tolerating
   PO
   - Bactrim ppx
   .
   #HSV: HSV lesions on buttock
   - will finish course of acyclovir
   - will follow wound care recs
   - derm felt that HSV lesions looked healed and that most of patient
   lesions were [**3-9**] to HPV
   # Hypokalemia
 no acute issues
   - now 4.7
   - continue to monitor
   .
   # Nausea/Vomiting/Diarrhea
   - pt to get post-pyloric tube for nutrition and meds
   - C. Diff x 2 negative
 stopped flagyl
   - GI consult
 recommended CT abdomen/pelvis (which was normal) and
   then EGD/flex sig when more stable
 also recommended zofran and
   compazine PRN
   # Delerium: Likely secondary to menigitis
   - continue monitoring MS
   - neuron recs: f/u EEG, limit dilaudid, f/u MRI head (just showed
   meningeal irritation), f/u CSF VDRL and flow cytometry, continue abx
   - transition to fentanyl patch to have patient on less PO dilaudid
   .
   # Thrush: seen on exam
   - nystatin swish and swallow
   .
   # ARF
   - Cr now 1.3
   - pt seems dry on exam
 will give fluids
   .
   # Asthma
 no acute issues
   - PRN arovent and albuterol
   .
   # FEN: post-pyloric tube for nutrition and HAART
 if doesn
t tolerate,
   then will give TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-8-16**] 11:35 PM 87.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-8-11**] 12:24 PM
   20 Gauge - [**2172-8-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2172-08-18 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2172-8-17**]
   - discussion with PCP and ID team; flucytosine d/cd
   - GI signed off
   - increased fluconazole. ID will dictate course according to LP results
   and opening pressure results.
   - Pt had episode of diaphoresis last night. Did not have a fever.
   Ocurred at the end of his ambisone treatment. Lasted about 30minutes.
   Nurse stated that she has noticed this before, told MD before, and they
   monitored it.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2172-8-17**] 08:10 AM
   Fluconazole - [**2172-8-17**] 03:36 PM
   Ambisome - [**2172-8-17**] 10:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-8-17**] 10:48 PM
   Hydromorphone (Dilaudid) - [**2172-8-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-8-18**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 72 (67 - 111) bpm
   BP: 138/70(87) {108/57(74) - 166/85(101)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.7 kg (admission): 79.3 kg
             Total In:
                                                                  3,250 mL
                                                                    893 mL
   PO:
                                                                    400 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    728 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                    810 mL
   Urine:
                                                                  2,995 mL
                                                                    810 mL
   NG:
                                                                     40 mL
   Stool:
                                                                    130 mL
   Drains:
   Balance:
                                                                     85 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   10.2 g/dL
   117 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   48 mg/dL
   108 mEq/L
   146 mEq/L
   31.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2172-8-11**]  06:22 PM
                             [**2172-8-12**]  03:12 AM
                             [**2172-8-13**]  02:00 AM
                             [**2172-8-14**]  04:04 AM
                             [**2172-8-15**]  03:31 AM
                             [**2172-8-15**]  02:41 PM
                             [**2172-8-16**]  02:09 AM
                             [**2172-8-16**]  03:39 PM
                             [**2172-8-17**]  01:55 AM
                             [**2172-8-18**]  02:01 AM
   WBC
   17.6
   18.4
   16.6
   20.7
   16.6
   14.1
   10.2
   Hct
   30.6
   33.1
   32.2
   34.1
   32.2
   30.2
   31.1
   Plt
   [**Telephone/Fax (3) 7637**]43
   214
   227
   219
   Cr
   1.3
   1.1
   1.2
   1.6
   2.0
   1.7
   1.3
   1.4
   1.3
   1.3
   Glucose
   116
   141
   104
   123
   141
   180
   172
   138
   166
   117
   Other labs: PT / PTT / INR:13.4/24.0/1.1, ALT / AST:19/10, Alk Phos / T
   Bili:53/0.3, Differential-Neuts:85.2 %, Lymph:9.1 %, Mono:4.4 %,
   Eos:1.1 %, LDH:136 IU/L, Ca++:9.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HEADACHE
 MENINGITIS, OTHER
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 NAUSEA / VOMITING
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DELIRIUM / CONFUSION
 CANDIDIASIS, ORAL
   56 y/o with HIV here with recurrant cryptococcal meningitis and
   increasing lumbar pressures, now s/p a second lumbar drain placement.
   .
   # Cryptococcal Meningitis
  recurrent infx
 has been on ambisome and
   flucytosine (d/c
d [**8-17**]).
   - s/p removal of lumbar drain
   - will continue vanc for coag neg staph in CNS per ID rec.
   - sent CSF for cytology and will send CSF for repeat crypto antigen
   - pan-cultured with fever last night
 will f/u
   - MRI showed meningeal irritation c/w cryptococcal meningitis
   # Mechanical Ventilation
   - pt was electively intubated for procedures yesterday
   - will plan to extubate today
   #Leukocytosis
   - now at 16.6 and pt was febrile last night
   - pan-cultured
 will f/u
   .
   # HIV
 CD4 175, viral load undectable
   - restarted HAART once post-pyloric tube is in place and pt tolerating
   PO
   - Bactrim ppx
   .
   #HSV: HSV lesions on buttock
   - will finish course of acyclovir today ([**8-18**])
   - will follow wound care recs
   - derm felt that HSV lesions looked healed and that most of patient
   lesions were [**3-9**] to HPV
   # Hypokalemia
 no acute issues
   - now 4.0
   - continue to monitor
   .
   # Nausea/Vomiting/Diarrhea
   - pt to get post-pyloric tube for nutrition and meds
   - C. Diff x 2 negative
 stopped flagyl
   - GI consult
 signed off as this appears to be under control and was
   in part related to the flucytocine.
   # Delerium: Likely secondary to menigitis
   - continue monitoring MS
   - neuron recs: f/u EEG, limit dilaudid, f/u MRI head (just showed
   meningeal irritation), f/u CSF VDRL and flow cytometry, continue abx
   - transition to fentanyl patch to have patient on less PO dilaudid
   .
   # Thrush: seen on exam
   - nystatin swish and swallow
   .
   # ARF
   - Cr now 1.3, with BUN/Cr ratio >20
   - Pt also appears dry, will continue to hydrate PO and augment with IV
   if needed.
   .
   # Asthma
 no acute issues
   - PRN arovent and albuterol
   .
   # FEN: post-pyloric tube for nutrition and HAART
 if doesn
t tolerate,
   then will give TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-8-17**] 09:51 PM 87.5 mL/hour
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2172-8-11**] 12:24 PM
   20 Gauge - [**2172-8-15**] 08:00 PM
   Prophylaxis:
   DVT: SCD
s / Heparin
   Stress ulcer: Pantoprazole
   VAP:  n/a
   Comments:
   Communication: With Patient Comments:
   Code status: Full
   Disposition: MICU